Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suicide attempt 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with reported past psychiatric 
history of anxiety and depression, admitted following suicidal 
attempt by overdosing on home medications. 
.
Patient endorses recent stressor of coming out to his family on 
___, and feels like "I lost my father and my sister in the 
same day." That weekend, he left town to visit his cousin in 
___, without telling anyone, including his boyfriend, who was 
upset by his disappearance. The day prior to admission, he had 
an altercation with his roommate's friend, which resulted in 
this person throwing/breaking glass objects near him. Following 
this incident, patient barricaded himself in his room and 
attempted to OD on Truvada. He believes he may have swallowed 
___ pills, but his roommate forced him to throw up and he was 
brought to the emergency department. Patient describes this 
suicide attempt is "out of character" for himself, and he "feels 
like a failure." When asked what was going through his mind 
during this attempt, patient states "nothing" and affirms this 
was an impulsive act. When asked if patient had thoughts of 
ending his life previously, he endorses frequent suicidal 
ideation for the past year, beginning in ___ or ___, a few months after his best friend from high school died. 
Thoughts have intensified with stressors, such as balancing 
academic work at ___ with his research job, declining 
grades, and loss of his research position. In ___, 
patient endorses a prior "near attempt" when he thought about 
jumping into a frozen lake. When asked what stopped him from 
going through with jumping/overdose, he identifies his mother 
and boyfriend as "anchors." He feels that he "couldn't do that 
to her" after all of the work she has put into making a better 
life for him. He also states during this last attempt that he 
remembered his boyfriend as "someone who loves me and takes care 
of me."
.
Patient endorses a history of depression beginning in high 
school, mostly exacerbated by thoughts of not being accepted and 
insecurities of wanting people to like him but believing that he 
was making things worse and further alienating people. He sought 
psychiatric attention and entered therapy at ___, but is 
unable to receive current treatment because he took a leave of
absence in ___. He is also concerned about financial status 
and paying for school. Patient is currently on Prozac 40mg PO 
qday, which he says he takes daily, but misses about ___ doses 
per week. He denies any efficacy, and also denies side effects. 
Patient is unsure that medication will solve his problems, and 
wants to be able to "move past medications." 
.
Patient endorses decreased mood, guilt, hypersensitivity to 
rejection, and intermittent suicidal ideation without plan. He 
denies further attempts than above, and denies current suicidal 
ideation. 
.
On psychiatric review of systems, negative for delusions, 
auditory hallucinations, visual hallucinations. Endorses periods 
of impulsivity, with increased spending beyond means, abrupt 
travel, grand ideas of running for president/becoming rich and 
successful, increased alcohol use, and elevated mood. These do 
not occur with decreased sleep. 
.
Course in Emergency Department (including behavior, medications 
given): Uneventful. Per nursing notes, ordered pizza and slept 
well. Received hydroxyzine 25mg PO overnight, and Truvada this 
morning. 
.
Per initial ED consult by ___, MD on ___:
___ year old man with past psych hx of depression, anxiety, 
coming to ED following suicide attempt by overdose of home 
truvada. 
.
Last weekend pt came out to family who "did not accept [him]." 
His sister called him sick, and his father said "negative things 
about [him]." Following this ordeal, he impulsively quit his job 
and took a weekend trip to ___ with his mother's money. He had 
an argument about this with his boyfriend, however upon his 
return this past ___, they made up and pt spent the night in 
his boyfriend's home. This morning, he returned to his own 
apartment, where he commenced smoking marijuana with his 2 
roommates and a third male who does not pay rent and got "really 
high." Pt returned to his room, and the third male became 
"violently angry" about his bong having been broken. Pt is 
unclear if he did actually break the bong. The individual was 
screaming for ~1.5 hours about this, along with banging on walls 
and doors demanding that he be paid back for his bong. Under 
these circumstances, pt became so anxious, that he impulsively 
placed ___ truvada pills in his mouth, managing to swallow 2 
of them. He then texted his friend, who called ___ resulting in 
his presentation to the ED. 
 .
Collateral:
Boyfriend ___ ___ 
.
They have been dating for 2 months tomorrow. The patient was 
having a mental breakdown after his roommate started freaking 
out that the patient had broken his bong and was banging on his 
door and destroyed his room in anger. The patient shoved Truvada 
in his mouth and swallowed some but not all. Was a danger to 
himself. He had texted a friend that he wanted to hurt himself 
before he did it and that friend called his roommates, who tried 
to find him but his door was locked, and so called the police 
who brought him to ED. He's very impressible, adopts what others 
are feeling, today was feeling anger from roommate, was in a 
state of panic and hopelessness, also has been financially 
hopeless. Thinks he was feeling really isolated, d/n want to 
bother anyone at work. He thinks the patient needs a therapist 
and psychiatrist. His PCP at ___ is currently prescribing 
Prozac but he does not believe the patient is consistently 
taking it. He is a student at ___ but it's closed 
during the summer so he can't seek mental health treatment 
there. Had not been talking about feeling suicidal before today. 
Everyone thinks he has needed to be on a different 
antidepressant because Prozac has not been working on him. He 
was recently fired from his job. He came out to his family who 
are ___ on ___, and it did not go well - his 
sister stated he was "sick." He drank an entire bottle of 
tequila and went to ___ to see a cousin using his mom's money, 
totally out of the blue. Came back on ___ night. Has issues 
with alcohol, used to drink heavily at job as a ___, 5 ___ 
___ Ice Tea's a day, smokes marijuana daily. No other 
substance use. Is not sure if he needs inpatient level of care 
but thinks he needs a psychotherapist and a medication 
adjustment."
 
Past Medical History:
Hospitalizations: None
Past diagnoses: Depression, Anxiety
Medication and ECT trials: Prozac 40mg po, last prescription 
filled ___
Current treaters and treatment: PCP ___ at ___
Suicide attempts: This current SA. 
Self-injury: Cutting in HS
Trauma: Born in Concentration camp in ___. Physical abuse
by uncle in childhood. 
Harm to others: Denies
Access to weapons: None"
Past medical history: none
 
Social History:
___
Family History:
Psychiatric illness: Father's side etoh use
Suicide: Suicide attempts by Mother per patient
 
Physical Exam:
VS:  BP: 113/70  HR: 69  temp: 98.1   resp: 16 O2 sat: 98%RA  
General: Young Asian male in NAD. Well-nourished, 
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: No gross deformity.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 
.
Neuro-
CN: pupils symmetry and responsiveness to light and 
accommodation: pupils symmetric and responsive to light and 
accommodation
     visual fields: full
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no 
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy
.
Motor:
       Delt:C5 5 Bic:C6 5  Tri:C7   Wr ext:C6   Fing ext:C7
Left          
Right       
        IP:5   Quad: 5   Hamst: 5  Dorsiflex:   ___:   Pl.flex
Left   
Right   
*Deep tendon Reflexes:
       Bicip:  Tric:  Brachial:  Patellar: 2+  Achilles:   Toes:
Left
Right

Sensation: intact and symmetric to light touch
Coordination:
     Finger-nose-finger
     Rapid Arm Movements
     Fine finger tapping
     Heel to shin
Gait/Romberg: normal, narrow-based gait
.
Neuropsychiatric Examination:
  *Appearance: good grooming/hygiene, young Asian male dressed 
in hospital gown
  Behavior: Cooperative, calm, forthcoming. Mild anxiety over 
discuss of inpatient hospitalization. 
  *Mood and Affect: "needed help" / euthymic, reactive, full 
range. 
  *Thought process (including whether linear, tangential, 
circumstantial and presence or absence of loose *associations): 
linear, goal-oriented 
  *Thought Content (including presence or absence of 
hallucinations, delusions, homicidal and suicidal ideation, with 
details if present): focused on stressors and anxiety over 
hospitalization
  *Judgment and Insight: poor / poor. 
  Cognition:
    *Attention, *orientation, and executive function:
    *Memory: ___ recall 
    *Fund of knowledge: appropriate
    Calculations: $1.75 = 7 quarters
    Abstraction: never judge a book by its cover = appropriate
    Visuospatial: not tested
    *Speech: fluent, spontaneous, clear. normal volume, normal 
tone, normal rate, normal prosody. 
    *Language: fluent ___. 
 
Pertinent Results:
___ 03:55PM BLOOD WBC-8.6 RBC-5.00 Hgb-15.3 Hct-45.3 MCV-91 
MCH-30.6 MCHC-33.8 RDW-13.5 RDWSD-45.0 Plt ___
___ 03:55PM BLOOD Neuts-65.2 ___ Monos-7.1 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-5.59 AbsLymp-2.23 AbsMono-0.61 
AbsEos-0.09 AbsBaso-0.04
___ 03:55PM BLOOD Glucose-106* UreaN-11 Creat-0.9 Na-141 
K-4.5 Cl-104 HCO3-24 AnGap-13
___ 03:55PM BLOOD ALT-18 AST-24 AlkPhos-83 TotBili-0.9
___ 03:55PM BLOOD Lipase-21
___ 03:55PM BLOOD Albumin-4.5
___ 03:55PM BLOOD TSH-1.9
___ 03:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:02PM BLOOD Lactate-1.2
___ 06:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
On initial presentation, patient endorsed sub acute worsening of 
depressive symptoms and escalating alcohol and cannabis use 
since ___ after he lost his research position and 
after experiencing the death of a close friend. His depressive 
symptoms included depressed mood, guilt, hypersensitivity to 
rejection, and intermittent suicidal ideation without plan. 
Directly prior to admission, patient described an acute 
worsening of his depression and anxiety in the setting of 
recently coming out to his father and sister and gay, who did 
not approve. This ultimately culminated in a impulsive ingestion 
of Truvada in an attempt to end his life while intoxicated on 
alcohol and amidst a verbal altercation with an acquaintance who 
was also intoxicated and living in the patient's apartment. 
Patient's presentation is most consistent for an unspecified 
depressive disorder and comborbid alcohol and cannabis use 
disorders. To help treat the patient's depressed mood, his 
fluoxetine was re-initiated and patient was provided with 
individual and group therapy. After re-initiation of fluoxetine, 
patient noted an improvement in his mood, cessation of SI, and 
started to feel hopeful for his future. His mental status on 
discharge was notable for improved mood, lack of SI, and hope 
for his future.
.
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder -At admission, patient was placed on 
CIWA protocol for administration of Diazepam 10 mg PO for CIWA 
scores greater than 10. Patient did not demonstrate signs nor 
symptoms of withdrawal, and CIWA monitoring was discontinued. 
The patient was offered counseling regarding negative effects of 
substance use on mental health and was encouraged to utilize AA 
or other support for continued abstinence upon discharge. 
.
#) Cannabis Use Disorder - Offered counseling regarding negative 
effects of substance use on mental health and encouraged 
continued abstinence on discharge. 
.
#) Tobbacco cessation - Patient was provided Nicotine Polacrilex 
2 mg PO Q1H:PRN for nicotine cravings and was offered nicotine 
patch at discharge; patient accepted. Patient was also provided 
with smoking cessation counseling and provided with PCP 
appointment at discharge for ongoing smoking cessation 
treatment. 
.
4. MEDICAL
#) PrEP - We continued home Truvada 200mg/300mg PO qday for 
ongoing pre-exposure prophylaxis. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was often visible in 
the milieu and was found to be appropriate with both staff and 
peers. 
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Met with patient, patient's mother, and two friends for family 
meeting on ___. Discussed current treatment plan, 
recommendations going forward, and offered explanation and 
clarification regarding treatment. Also engaged in meaningful 
conversation about safety planning (e.g. calling BEST 
___ for emergency psychiatric evaluation, or going to 
the nearest ED).
.
INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of re-starting fluoxetine 
(such as a worsening of suicidality, insomnia, and decreased 
libido, etc.), and risks and benefits of possible alternatives, 
including not taking the medication, with this patient. We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team. The patient appeared 
able to understand and consented to begin the medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
depressed mood and suicide attempt.  His static factors noted at 
that time include recent suicide attempt, chronic mental 
illness, history of substance abuse, male gender, age, and LGBT 
identity. At admission, the patient had the modifiable risk 
factors of suicidal ideation without intent/plan, medication 
noncompliance, lack of engagement with outpatient treatment, 
hopelessness, recklessness, limited coping skills, no 
established outpatient treatment lack of purpose, active 
substance abuse/intoxication, andimpulsivity. The modifiable 
risk factors were addressed by re-initiated antidepressant 
medication, providing the patient with outpatient follow up upon 
discharge, providing the patient with individual and group 
therapy for coping skills, and providing substance cessation 
counseling (alcohol, tobacco, and cannabis). Finally, the 
patient is being discharged with many protective risk factors, 
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, reality testing ability, good coping 
skills, good problem-solving skills, lack of suicidal ideation, 
and strong social supports. Overall, the patient is not at an 
acutely elevated risk of self-harm nor danger to others due to 
acutely decompensated psychiatric illness. Thus patient does not 
meet section 12a criteria for involuntary psychiatric 
hospitalization at the time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY PrEP 
2. FLUoxetine 40 mg PO DAILY depression 

 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY 
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY PrEP 
3.  FLUoxetine 40 mg PO DAILY depression 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Depressive Disorder 

 
Discharge Condition:
Ambulates independently.
VS Temp 97.7 PO; BP 100/63; HR 55; RR 16; oxygen sat 98% 
Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed,
wearing casual clothing, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, no psychomotor
agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: 'Good'
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: improved
-Judgment: improved
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___